US06927228B2
4-Butoxy-N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide
In a manner similar to that of Example 37(e), by reacting 500 mg (1.5 mmol) of 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione with 290 μl (1.5 mmol) of 4-butoxybenzoyl chloride, and after purification, 550 mg (83%) of 4-20 butoxy-N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylbenzamide are obtained in the form of a white solid with a melting point of 116° C.

reactant | 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione | 1.5 mmol, 500 mg | CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C18H18N2O2S
reactant | 4-butoxybenzoyl chloride | 1.5 mmol, 290 μl | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
product | 4-Butoxy-N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide | C(CCC)OC1=CC=C(C(=O)N(C)CC=2C=C(C=CC2)C2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C=C1 | C29H30N2O4S
